### PR TITLE
[Merged by Bors] - feat(NumberTheory/Height/NumberField): add lemma on "finite part" of mulHeight

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This PR adds
```lean
lemma absNorm_mul_finprod_finitePlace_eq_one {K ι : Type*} [Field K] [NumberField K]
    [Finite ι] {x : ι → 𝓞 K} (hx : x ≠ 0) :
    (Ideal.span <| Set.range x).absNorm * ∏ᶠ v : FinitePlace K, ⨆ i, v (x i) = 1 
```
Because we need it in the proof, we also add a new file Mathlib.Algebra.Order.Hom.Lattice that contains an API lemma that allows reducing the type over which an `iSup` is taken to a subtype.

---

- [x] depends on: #39008

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/Basic.lean [hunk 1]
```diff
@@ -54,6 +54,10 @@ variable (K L : Type*) [Field K] [Field L]
 -- See note [lower instance priority]
 attribute [instance] NumberField.to_charZero NumberField.to_finiteDimensional
 
+lemma one_le_finrank_rat [NumberField K] : 1 ≤ Module.finrank ℚ K := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/Basic.lean]: We have `finrank_pos` in much greater generality (but also this lemma seems unused in this PR)

File: Mathlib/NumberTheory/NumberField/Basic.lean [hunk 2]
```diff
@@ -411,6 +415,25 @@ theorem mem_span_integralBasis {x : K} :
 theorem RingOfIntegers.rank : Module.finrank ℤ (𝓞 K) = Module.finrank ℚ K :=
   IsIntegralClosure.rank ℤ ℚ K (𝓞 K)
 
+variable {K}
+
+lemma exists_zsmul_eq_integer (x : K) : ∃ (m : ℤ) (r : 𝓞 K), m ≠ 0 ∧  m • x = r := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/Basic.lean]: These also don't seem to be used (and generalize quite substantially).

File: Mathlib/NumberTheory/Height/NumberField.lean [hunk 3]
```diff
@@ -138,6 +140,43 @@ lemma totalWeight_pos : 0 < totalWeight K := by
     using Fintype.sum_pos
       (Function.ne_iff.mpr ⟨default, (default : InfinitePlace K).mult_ne_zero⟩).pos
 
+open IsDedekindDomain.HeightOneSpectrum Ideal UniqueFactorizationMonoid FinitePlace Finite in
+/-- This statement is equivalent to the fact that the "finite part" of the multiplicative
+height of a (non-zero) tuple `x` is the inverse of the absolute norm of the ideal generated
+by the values of `x`. We state it in a way that avoids taking an inverse. -/
+lemma absNorm_mul_finprod_finitePlace_eq_one {ι : Type*} [Finite ι] {x : ι → 𝓞 K} (hx : x ≠ 0) :
```
Comment (tb65536) [inline Mathlib/NumberTheory/Height/NumberField.lean]: Can you at least generalize this to any `IsIntegralClosure`?

File: Mathlib/NumberTheory/NumberField/Basic.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/NumberField/Basic.lean]: They will be used in the PR that proves Northcott.

File: Mathlib/NumberTheory/NumberField/Basic.lean (hunk 1 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/NumberField/Basic.lean]: OK.

**Comment by MichaelStollBayreuth** [comment]
(Resolving the conversations, as they refer to changes made in the PR this depends on.)

File: Mathlib/NumberTheory/Height/NumberField.lean (hunk 3 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/Height/NumberField.lean]: As mentioned elsewhere, `𝓞 K` is baked into `NumberField.FinitePlace`, and the proof goes via `finprod_finitePlace_pow_multiplicity` and friends, where this is used in an essential way.

**Comment by MichaelStollBayreuth** [comment]
@tb65536 I've taken the liberty to assign you to this PR, as you have had a thorough look at the previous one, which is a prerequisite. Feel free to unassign yourself again, though.

File: Mathlib/NumberTheory/Height/NumberField.lean [hunk 4]
```diff
@@ -138,6 +140,43 @@ lemma totalWeight_pos : 0 < totalWeight K := by
...
+  simp only [Pi.zero_def] at hi₀
+  let i' : { j // (x j : K) ≠ 0 } := ⟨i₀, mod_cast hi₀⟩
+  have hI : span (Set.range x) = span (Set.range fun i : { j // (x j : K) ≠ 0 } ↦ x i.val) := by
+    convert span_range_eq_span_range_support x <;> norm_cast
+  have hx₀ : (fun i ↦ (x i : K)) ≠ 0 := Function.ne_iff.mpr ⟨i', i'.prop⟩
+  simp_rw [coe_apply, iSup_eq_iSup_subtype hx₀, hI]
+  have : Nonempty _ := .intro i'
+  have Hj (j : { j // (x j : K) ≠ 0 }) : x j.val ≠ 0 := RingOfIntegers.coe_ne_zero_iff.mp j.prop
+  have H (j : { j // (x j : K) ≠ 0 }) : span {x ↑j} ≠ ⊥ := mt span_singleton_eq_bot.mp <| Hj j
+  have hxι' : ⨆ i : { j // (x j : K) ≠ 0 }, span {x i.val} ≠ ⊥ := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/Height/NumberField.lean]: I think this proof might look a little nicer if you split out an auxiliary lemma assuming `hx : ∀ i, x i ≠ 0`.

**Comment by MichaelStollBayreuth** [comment]
@tb65536 Can you take another quick look?

**Comment by MichaelStollBayreuth** [comment]
@tb65536 Ping?

File: Mathlib/Algebra/Order/Hom/Lattice.lean [hunk 5]
```diff
@@ -0,0 +1,26 @@
...
+    [ConditionallyCompleteLattice M] [FunLike F K M] [ZeroHomClass F K M] [NonnegHomClass F K M]
+    {x : ι → K} (hx : x ≠ 0) {v : F} :
+    ⨆ i, v (x i) =  ⨆ i : {j // x j ≠ 0}, v (x i) := by
+  obtain ⟨i, hi⟩ : ∃ j, x j ≠ 0 := Function.ne_iff.mp hx
+  have : Nonempty {j // x j ≠ 0} := .intro ⟨i, hi⟩
+  have : Nonempty ι := .intro i
+  refine le_antisymm (ciSup_le fun j ↦ ?_) <| ciSup_le fun ⟨j, hj⟩ ↦ le_ciSup_of_le j le_rfl
+  rcases eq_or_ne (x j) 0 with h | h
+  · rw [h, map_zero]
+    exact le_ciSup_of_le ⟨i, hi⟩ (NonnegHomClass.apply_nonneg ..)
```
Comment (tb65536) [inline Mathlib/Algebra/Order/Hom/Lattice.lean]:
```suggestion
    exact le_ciSup_of_le ⟨i, hi⟩ (apply_nonneg ..)
```

File: Mathlib/NumberTheory/Height/NumberField.lean [hunk 6]
```diff
@@ -138,6 +140,47 @@ lemma totalWeight_pos : 0 < totalWeight K := by
...
+  exact apply_mul_absNorm_pow_eq_one v (hx i)
+
+open Ideal RingOfIntegers in
+/-- This statement is equivalent to the fact that the "finite part" of the multiplicative
+height of a (non-zero) tuple `x` is the inverse of the absolute norm of the ideal generated
+by the values of `x`. We state it in a way that avoids taking an inverse. -/
+lemma absNorm_mul_finprod_finitePlace_eq_one {ι : Type*} [Finite ι] {x : ι → 𝓞 K} (hx : x ≠ 0) :
+    (span <| Set.range x).absNorm * ∏ᶠ v : FinitePlace K, ⨆ i, v (x i) = 1 := by
+  obtain ⟨i₀, hi₀⟩ := Function.ne_iff.mp hx
+  simp only [Pi.zero_def] at hi₀
```
Comment (tb65536) [inline Mathlib/NumberTheory/Height/NumberField.lean]: (you can also omit this line entirely if you wanted)
```suggestion
  rw [Pi.zero_apply] at hi₀
```

**Review by tb65536 — APPROVED** [review]
This whole "cisup over a subtype" business feels more painful than it ought to be, but I can't see how to improve things.

Thanks!

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

File: Mathlib/NumberTheory/Height/NumberField.lean (hunk 3 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/Height/NumberField.lean]: I'm trying to write a version and prove it by reducing to `𝓞 K`, like this:
```lean
open Ideal in
lemma absNorm_mul_finprod_finitePlace_eq_one' {R ι : Type*} [CommRing R] [IsDedekindDomain R]
    [Module.Free ℤ R] [Algebra R K] (hR : IsIntegralClosure R ℤ K) [Finite ι] {x : ι → R}
    (hx : x ≠ 0) :
    (span <| Set.range x).absNorm * ∏ᶠ v : FinitePlace K, ⨆ i, v (algebraMap R K (x i)) = 1 := by
  let e := RingOfIntegers.equiv R (K := K)
  have H r : algebraMap R K r = e.symm r := by simp [e, RingOfIntegers.equiv]
  have Hn : (span <| Set.range x).absNorm = (span <| Set.range (e.symm ∘ x)).absNorm := by
    rw [Set.range_comp, ← map_span e.symm]
    sorry
  simp_rw [Hn, H]
  have hx' : e.symm ∘ x ≠ 0 := (Function.comp_ne_zero_iff x e.symm.injective e.symm.map_zero).mpr hx
  exact absNorm_mul_finprod_finitePlace_eq_one hx'
```
but I am stuck at the `sorry`. It looks like some API is missing for transporting things like absolute norms (or cardinalities of quotients) through an isomorphism.

So I think I'll declare this out of scope for now and add a TODO.

File: .vscode/settings.json [hunk 7]
```diff
@@ -20,5 +20,7 @@
   "files.readonlyInclude": {
     "**/.elan/**": true,
     "**/.lake/**": true
-  }
+  },
+  "json.schemaDownload.enable": false,
+  "workbench.experimental.cloudChanges.partialMatches.enabled": true
```
Comment (tb65536) [inline .vscode/settings.json:25]: I don't think this file should be changed?

Comment (MichaelStollBayreuth) [reply .vscode/settings.json:25]: Why is this even part of the files that are looked at by git?

Comment (bryangingechen) [reply .vscode/settings.json:25]: There are some settings we decided to put here for convenience, e.g. the ruler at width 100 and setting the end of line character to `\n`.

Comment (MichaelStollBayreuth) [reply .vscode/settings.json:25]: #40122 reverts it. Thanks for spotting that!

Comment (MichaelStollBayreuth) [reply .vscode/settings.json:25]: The downside is that I can't change settings when working on Mathlib, I guess.

Comment (themathqueen) [reply .vscode/settings.json:25]: I think you can, you just need to add it to your gitignore so you don't accidentally commit it again?

Comment (MichaelStollBayreuth) [reply .vscode/settings.json:25]: Is .gitignore ignored by git? It is not listed in there. So I'm wary that changing my .gitignore will suddenly change everybody's...

Comment (themathqueen) [reply .vscode/settings.json:25]: Pretty sure you can add it to your global gitignore

Comment (kbuzzard) [reply .vscode/settings.json:25]: FWIW, when I make scratch files in mathlibs I add them to .git/info/exclude . I don't know if this works for files which are already commited though.
